US06900215B2
3-Bromo-7-methylimidazo[1,2-α]pyrimidine was coupled with 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 2′-fluoro-5′-(7-methylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile. Purification by high performance liquid chromatography afforded the trifluoroacetate salt as a white powder: δH (400 MHz, DMSO) 2.60 (3H, s), 7.11 (1H, d, J 7), 7.59-7.70 (2H, m), 7.76 (1H, d, J 8), 7.84-7.89 (3H, m), 8.00-8.04 (2H, m), 9.00 (1H, d, J 7); m/z (ES+) 329 (M++H).

reactant | 3-Bromo-7-methylimidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C | C7H6BrN3
reactant | 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=1C(=CC=CC1)C#N | C19H19BFNO2
product | 2′-fluoro-5′-(7-methylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C)C=2C(=CC=CC2)C#N | C20H13FN4
